Groundlark Trenz support check: uart_100pf
Vdrive src 0 PULSE(0 3.201 100n 5n 5n 500n 1u)
Rdriver src driver 25
Rseries driver rx 47
Cload rx 0 100p
.tran .5n 900n
.measure tran rise TRIG v(rx) VAL=0.9603 RISE=1 TARG v(rx) VAL=2.2407 RISE=1
.measure tran sample FIND v(rx) AT=350n
.end
