ShakeSense A2 supporting circuit: usb_supply_5p25_0p025
Vhost host 0 5.25
Rcable host fused 2
Rptc fused input 1
Cin input 0 2.2u
Iload input 0 0.025
Bldo reg 0 V=min(3.234,v(input)-0.4)
Cout reg 0 4.7u
Rswitch reg sensor 0.5
Isensor sensor 0 PULSE(0.001 0.025 100u 2u 2u 200u 500u)
Csensor sensor 0 200n
.tran 100n 800u
.measure tran input_min MIN v(input) FROM=90u TO=800u
.measure tran sensor_min MIN v(sensor) FROM=90u TO=800u

.end
